US06420359B1
a) 6-Chloro-2-(cyclopropylamino)-3-nitropyridine
A solution of cyclopropylamine (1.25 g, 22.0 mmol) in toluene (11 mL) was added over 10 min to an ice-cold solution of 2,6-dichloro-3-nitropyridine (2.00 g, 10.4 mmol) in toluene (10 mL). The mixture was stirred at 0° C. for 1 h and at room temperature for 2 h. Water (50 mL) was added to the mixture and the phases were separated. The organic layer was washed with brine (25 mL), dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (hexane:EtOAc, 3:2) to give the title compound (1.97 g, 89% yield) as a yellow solid.

reactant | cyclopropylamine | 22.0 mmol, 1.25 g | C1(CC1)N | C3H7N
reactant | 2,6-dichloro-3-nitropyridine | 10.4 mmol, 2.00 g | ClC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | Water | 50 mL | O | H2O
solvent | toluene | 11 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 6-Chloro-2-(cyclopropylamino)-3-nitropyridine | 1.97 g, 89% yield | ClC1=CC=C(C(=N1)NC1CC1)[N+](=O)[O-] | C8H8ClN3O2
